* source OPA858
X_U1         IN+ N00412 VS+ VS- OUT OPA858
R_R1         0 OUT  200 TC=0,0 
R_R2         N00412 OUT  453 TC=0,0 
R_R3         0 N00412  75 TC=0,0 
V_V1         VS+ 0 2.5Vdc
V_V2         VS- 0 -2.4Vdc
V_V3         IN+ 0 DC 0Vdc AC 1Vac 
